US09381147B2
Step a) Intermediate: 3-dimethylaminopropyl laurate
To a 50-mL conical bottom plastic vial was added methyl laurate (38.5 mmol), dimethylaminobutanol (46.2 mmol, 1.2 eq), and Novozym 435 (400 mg). A syringe was inserted through the cap and two additional holes were punched for gas to exit. Nitrogen was bubbled at a rate sufficient to mix the contents. The vial was placed in a heating block set to 65° C. The reaction was monitored by GC/MS to observe the disappearance of starting material. The reaction was complete after approximately 24 hours. The reaction mixture was allowed to cool. The Novozym 435 was removed by filtration to afford the product as a pale, yellow oil (9.2 g; 67% yield) without further purification.

reactant | methyl laurate | 38.5 mmol | C(CCCCCCCCCCC)(=O)OC | C13H26O2
reactant | dimethylaminobutanol | 46.2 mmol, 1.2 eq | CN(C)C(CCC)O | C6H15NO
product | 3-dimethylaminopropyl laurate | 67% yield | C(CCCCCCCCCCC)(=O)OCCCN(C)C | C17H35NO2
